US07576122B2
Step D: Trans-2,5-dipropylpyrrolidine
Dissolve 1.56 g trans-1-benzyl-2,5-dipropylpyrrolidine from the Step C above in 100 mL methanol and add 4.01 g ammonium formate and 156 mg Pd(OH)2/C. Let the reaction mixture stir under nitrogen over night. Filter the reaction mixture through Celite to remove the catalyst. Concentrate the filtrate under reduced pressure to give a white solid residue. Suspend it in a small amount of water, add 5 mL 5 N NaOH solution, extract with ether several times, wash the combined ether solution with saturated brine, dry over anhydrous Na2SO4, and evaporate to give the title compound as yellow liquid. 1H NMR (CDCl3, 500 MHz) 3.11˜3.16 (m, 2H), 1.91˜1.98 (m, 2H), 1.26˜1.50 (m, 10H), 0.93 (t, J=7.1 Hz, 6H). LC-MS: 1.89 min. (M+H=156.1).

reactant | trans-1-benzyl-2,5-dipropylpyrrolidine | 1.56 g | C(C1=CC=CC=C1)N1[C@H](CC[C@@H]1CCC)CCC | C17H27N
reactant | ammonium formate | 4.01 g | C(=O)[O-].[NH4+]
reactant | water | O | H2O
reactant | NaOH | 5 N, 5 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd(OH)2/C | 156 mg | [OH-].[OH-].[Pd+2]
product | Trans-2,5-dipropylpyrrolidine | C(CC)[C@@H]1N[C@H](CC1)CCC | C10H21N
